US06313312B1
1-[(E)-3-Bromo-1-methyl-1-propenyl]-3-nitrobenzene
To a solution of triphenylphosphine (5.15 g, 19.7 nimol) in acetonitrile (140 ml) was added dropwise over 5 minutes a solution of bromine (3.15 g, 19.7 mmol) in acetonitrile (5 ml) at a rate such that the temperature did not exceed −10° C. The mixture was allowed to warm to room temperature, then to this was added a solution of (E)-3-(3-nitrophenyl)-2-buten-1-ol (Preparation 2, 4 g, 20.7 mmol) in acetonitrile (5 ml). The mixture was warmed gently to 65° C. for 1 h, cooled to room temperature and then poured onto diethyl ether (50 ml). The mixture was concentrated in vacuo, then diethyl ether (200 ml) was added. The mixture was filtered, concentrated again in vacuo and the residue purified by silica column (300 g) chromatography, eluting with 3:1 hexane/dichloromethane then 1:1 hexane/dichloromethane. Appropriate fractions were combined and concentrated in vacuo to give the title compound as a very pale yellow oil (4 g, 75%)

reactant | triphenylphosphine | 5.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 19.7 mmol, 3.15 g | BrBr | Br2
reactant | (E)-3-(3-nitrophenyl)-2-buten-1-ol | 20.7 mmol, 4 g | [N+](=O)([O-])C=1C=C(C=CC1)/C(=C/CO)/C | C10H11NO3
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[(E)-3-Bromo-1-methyl-1-propenyl]-3-nitrobenzene | BrC/C=C(\C)/C1=CC(=CC=C1)[N+](=O)[O-] | C10H10BrNO2
